US06248739B1
N-(4-Chlorobenzyl)-1-[2-(2-hydroxyethoxy)ethyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A dry flask containing N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (0.20 gm) from Preparation No. 40 in dry THF (5 mL) under an argon atmosphere is added triphenylphosphine (165 mg), diethyleneglycol (0.20 mL) and diethyl azodicarboxylate (0.10 mL). The mixture is stirred at room temperature for 2 hrs. The reaction mixture is concentrated under reduced pressure. The crude product is purified by flash column chromatography eluting with 10% to 40% methanol in ethyl acetate and then by recrystallization from ethyl acetate to afford 68 mg of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 0.20 gm | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)CN2CCOCC2)C=C1 | C22H22ClN3O3
reactant | triphenylphosphine | 165 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyleneglycol | 0.20 mL | C(COCCO)O | C4H10O3
reactant | diethyl azodicarboxylate | 0.10 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(4-Chlorobenzyl)-1-[2-(2-hydroxyethoxy)ethyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 68 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)CCOCCO)C=C1 | C26H30ClN3O5
